US07786157B2
1-{2-[3-(3-Chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-3-(4-chloro-phenyl)-1-(2-methoxy-ethyl)-urea
A mixture of 3-(3-Chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one (100 mg, 0.3 mmol, 1 eq), 1-Chloro-4-isocyanato-benzene (56 mg, 0.36 mmol, 1.2 eq), in THF (2 ml) was stirred at room temperature overnight. It was concentrated, dissolved in acetonitrile and purified with HPLC to give the desired product. LCMS observed for (M+H)+: 479.1

reactant | 3-(3-Chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one | 0.3 mmol, 100 mg, 1 eq | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CNCCOC)=O)C | C15H20ClN3O3
reactant | 1-Chloro-4-isocyanato-benzene | 0.36 mmol, 56 mg, 1.2 eq | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-{2-[3-(3-Chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-3-(4-chloro-phenyl)-1-(2-methoxy-ethyl)-urea | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CN(C(=O)NC1=CC=C(C=C1)Cl)CCOC)=O)C | C22H24Cl2N4O4
